US09169259B2
A mixture of 6-chloropyridazin-3-amine (2 g, 15.4 mmol), phenylboronic acid (2.83 g, 23.2 mmol), Pd2(dba)3 (0.89 g, 1.6 mmol), X-phos (2.94 g, 6.2 mmol) and Na2CO3 (4.91 g, 46.3 mmol) in dioxane (50 mL) and water (5 mL) was heated to 100° C. with stirring for 6 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=20:1) to give 6-phenylpyridazin-3-amine (2.06 g, 78%) as a white solid. LC-MS: [M+H]+, 172.1, tR=1.04 min.

reactant | 6-chloropyridazin-3-amine | 15.4 mmol, 2 g | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | phenylboronic acid | 23.2 mmol, 2.83 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | X-phos | 6.2 mmol, 2.94 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 46.3 mmol, 4.91 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd2(dba)3 | 1.6 mmol, 0.89 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-phenylpyridazin-3-amine | 2.06 g, 78% | C1(=CC=CC=C1)C1=CC=C(N=N1)N | C10H9N3
